US07235572B2
In analogy to the procedure described in example 2 c], {2-methyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {2-methyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid as off-white powder.

reactant | {2-methyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C(=CC2=CC(=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C25H23F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | {2-methyl-5-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | CC=1N(C2=CC=C(C=C2C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC(=O)O | C23H19F3N2O3S
